US07230011B2
1-phenethyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole
To solution of 5-(t-butyldimethylsilanyloxy)-3-(1-methylpiperidin-4-yl)-1H-indol (285 mg, 0.83 mmol) in tetrahydrofuran (20 mL) stirring at 0° C. was treated with potassium hydride (99 mg of a 35% dispersion in oil, 0.87 mmol). The light yellow solution was stirred for 20 minutes at 0° C. Phenethyl tosylate (2.29 g, 8.30 mmol) was added and stirred at 0° C. for 3 h, and at room temperature overnight. Addition 35% potassium hydride (94 mg, 0.83 mmol) was added and the reaction was stirred at room temperature overnight. The mixture was treated with tetrabutylammonium fluoride (830 μL of a 1M solution in tetrahydrofuran, 0.83 mmol) and was stirred overnight at room temperature, before concentrating in vacuo. Purification by silica gel chromatography 9:1 dichloromethane: methanol gave 175 mg (63%) of the title compound as orange foam: MS (APCI): m/e 335.2 (M+1).

reactant | 5-(t-butyldimethylsilanyloxy)-3-(1-methylpiperidin-4-yl)-1H-indol | 0.83 mmol, 285 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H32N2OSi
reactant | potassium hydride | [H-].[K+]
reactant | Phenethyl tosylate | 8.30 mmol, 2.29 g | S(=O)(=O)(OCCC1=CC=CC=C1)C1=CC=C(C)C=C1 | C15H16O3S
reactant | potassium hydride | 0.83 mmol, 94 mg | [H-].[K+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-phenethyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 175 mg, 63% | C(CC1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)O)C1CCN(CC1)C | C22H26N2O
